US08802713B2
14 g of a 20 mass % sodium ethoxide ethanol solution was added to 20 mL of ethanol, and 10 g of 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine was rapidly added under reflux with heating. After stirring for 30 seconds, 7.8 g of diethyl maleate was dropwise added, followed by stirring under reflux with heating for 10minutes. The reaction solution was cooled to 50° C. or below, and 4.5 g of acetic acid was added. Then, the solvent was distilled off under reduced pressure, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was dissolved in 80 mL of toluene, 0.68 g of tetra n-butyl ammonium bromide was added, and 3.5 g of a 10 mass % aqueous solution of potassium permanganate was gradually added. After completion of the reaction, ethyl acetate and 20 mL of a saturated aqueous solution of citric acid were added, and the solution was washed with an aqueous sodium thiosulfate solution and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:1) to obtain 3.80 g of ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole-5-carboxylate.

reactant | sodium ethoxide ethanol | C(C)O.[O-]CC.[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine | 10 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN | C9H10F4N2S
reactant | diethyl maleate | 7.8 g | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
solvent | acetic acid | 4.5 g | C(C)(=O)O | C2H4O2
product | ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole-5-carboxylate | 3.80 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C(=O)OCC)O | C15H14F4N2O3S
